US09301951B2
3-((3-((4-(pyrrolidin-1-yl)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)-pyridin-2-yl)phenyl)carbamoyl)benzyl)thio)propanoic acid
Into a 50-mL round bottom flask, was placed a solution of tert-butyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(pyrrolidin-1-yl)phenyl)carbamoyl)-benzylthio)propanoate (600 mg, 0.84 mmol, 1.00 equiv) in dichloromethane (20 mL), and trifluoroacetic acid (2 mL). The resulting solution was stirred for 2.5 h at 25° C. in an oil bath. The reaction progress was monitored by LCMS. The resulting mixture was concentrated under vacuum. The crude product (120 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 96.2 mg (15%) of a yellow solid. 1H-NMR (300 MHz, DMSO, ppm): δ 11.92 (s, 1H), 9.51 (t, J=11.7 Hz, 1H), 8.95 (d, J=5.4 Hz, 1H), 8.28 (s, 1H), 8.15 (d, J=8.7 Hz, 1H), 7.82 (d, J=5.4 Hz, 2H), 7.73 (t, J=12.3 Hz, 2H), 7.55 (m, 5H), 6.96 (d, J=2.4 Hz, 1H), 6.76 (m, 1H), 4.62 (d, J=5.7 Hz, 2H), 3.87 (s, 2H), 3.33 (s, 4H), 2.62 (m, 2H), 2.50 (m, 2H), 1.99 (s, 4H). MS (ES, m/z): 663 [M+H]+.

reactant | tert-butyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(pyrrolidin-1-yl)phenyl)carbamoyl)-benzylthio)propanoate | 0.84 mmol, 600 mg, 1.00 equiv | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCC2)NC(=O)C=2C=C(CSCCC(=O)OC(C)(C)C)C=CC2)C=CC1)(F)F | C39H41F3N4O4S
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-((3-((4-(pyrrolidin-1-yl)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)-pyridin-2-yl)phenyl)carbamoyl)benzyl)thio)propanoic acid | 96.2 mg, 15% | N1(CCCC1)C1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)O)C=CC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O | C35H33F3N4O4S
